US05972965
To a solution of 1-[2-(4,5-diphenyloxazol-2-yl)-2-hydroxy-1-(2-hydroxyethyl)ethyl]-5-tert-butyldiphenylsilyloxy-3,4-dihydronaphthalene (1.5 g) in tetrahydrofuran (30 ml) were added triphenylphosphine (1.8 g) and diethyl azodiformate (1.2 ml) at room temperature. After being stirred for 12 hours at the same temperature, the mixture was poured into the mixture of ethyl acetate and water. The organic layer was washed with water and brine, dried over MgSO4, and evaporated in vacuo. The residue was purified by chromatography on silica gel to afford 1-[2-(4,5-diphenyloxazol-2-yl)tetrahydrofuran-3-yl]-5-tert-butyldiphenylsilyloxy-3,4-dihydronaphthalene (1.0 g). MS (m/z): 674 (M+ +1) IR (Neat): 1580 cm-1NMR (CDCl3, δ): 1.07 (9H, s), 2.0-2.4 (3H, m), 2.6-3.1 (2H, m), 3.8-4.5 (4H, m), 5.47 (1H, d, J=8.0 Hz), 5.93 (1H, m), 6.39 (1H, d, J=8.0 Hz), 6.82 (1H, t, J=8.0 Hz), 7.02 (1H, d, J=8 Hz), 7.2-7.8 (10H, m)

reactant | 1-[2-(4,5-diphenyloxazol-2-yl)-2-hydroxy-1-(2-hydroxyethyl)ethyl]-5-tert-butyldiphenylsilyloxy-3,4-dihydronaphthalene | 1.5 g | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)C(C(CCO)C1=CCCC2=C(C=CC=C12)O[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)O | C45H45NO4Si
reactant | triphenylphosphine | 1.8 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodiformate | 1.2 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 1-[2-(4,5-diphenyloxazol-2-yl)tetrahydrofuran-3-yl]-5-tert-butyldiphenylsilyloxy-3,4-dihydronaphthalene | 1.0 g | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)C1OCCC1C1=CCCC2=C(C=CC=C12)O[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C | C45H43NO3Si
